Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:11]([H:12])([H:13])[H:14].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.62505718112
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:11][H:12]>>[C:7]([H:8])=[C:9]([H:10])[O:11][H:12].[H:1][C:2]=[C:3]([H:4])[C:5][H:6],5.64114214464
[C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-5.28047307968
[H:1][O:2][C:3][O:4][C:5](=[C:6]([H:7])[H:8])[C:10]([H:11])([H:12])[H:13].[H:9]>>[H:1][O:2][C:3][O:4][C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-1.86233345813
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2](=[C:3]([H:4])[H:5])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15].[H:6],1.88494745303
[H:12].[O:1]=[C:2]([H:3])[C:4]([O:5][C:6]([H:7])[H:8])=[C:9]([H:10])[H:11]>>[O:1]=[C:2]([H:3])[C:4]([O:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-3.27782207379
[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[H:7].[C:8]([H:9])([H:10])[H:11]>>[C:1]=[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-2.91602242959
[H:1][O:2]/[C:3](=[C:4]\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:5]>>[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-4.81278558598
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[C:10]([H:11])([H:12])[O:13][H:14].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[H:9],3.76692444397
[C:2]([H:3])([O:4][H:5])[C:6]([H:7])([H:8])[H:9].[O:1]>>[O:1][C@:2]([H:3])([O:4][H:5])[C:6]([H:7])([H:8])[H:9],-4.27312413247
[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2][O:3][C:4][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:5],4.741446139790001
[H:1][O:2][C:3]=[C:4]([H:5])[H:6].[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-2.05770151539
[O:1][C@:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:3].[O:1]=[C:2]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],0.859642595457
[H:1][C:2][O:3]/[C:4]=[C:5](\[H:6])[O:7][H:8]>>[H:1][C:2][O:3][C:4]#[C:5][H:6].[O:7][H:8],3.3847414673400005
[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][O:2][C:3]([H:4])([H:5])[C:6][H:7]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-4.47046265586
[C:1]#[C:2][O:3][C:4].[C:5][O:6][H:7]>>[C:1]#[C:2][O:3][C:4]#[C:5][O:6][H:7],-3.97359838141
[C:4]([H:5])([H:6])=[C:7]([H:8])[O:9][H:10].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[O:9][H:10],-2.94854159149
[H:9].[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])/[C:7]([H:8])=[C:10](\[H:11])[O:12][H:13]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[O:12][H:13],-1.61178294551
[H:1][C:2]([H:3])=[C:4]([H:5])[C@:9]([C:6]([H:7])[H:8])([H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])[C@:4]1([H:5])[C:6]([H:7])([H:8])[C@@:9]1([H:10])[O:11][C:12]([H:13])([H:14])[H:15],-0.0864657818993
[H:1][C:2]([H:3])[C:4]([H:5])([C:6]#[C:7][H:8])[C:11]#[C:9][H:10]>>[H:1][C:2]([H:3])[C:4]1([H:5])[C:6]=[C:7]([H:8])[C:9]([H:10])=[C:11]1,1.45643997386
[H:1][O:2][C@@:3]1([H:4])[C:5][O:7][C:8]1[C:9]([H:10])([H:11])[H:12].[H:6]>>[H:1][O:2][C@:3]1([H:4])[C:5]([H:6])[O:7][C:8]1[C:9]([H:10])([H:11])[H:12],-3.91856688102
[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6]=[O:7],0.8642858272499999
[H:10].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][C:9]=[C:11]([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13],-4.61937162296
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[H:1][C:2][H:3].[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],5.24484221107
[H:1][C:2][O:3][C:4]([H:5])=[C:6]=[C:9]([H:10])[H:11].[O:7][H:8]>>[H:1][C:2][O:3][C:4]([H:5])[C:6]([O:7][H:8])=[C:9]([H:10])[H:11],-4.06809613719
[H:7].[O:1]=[C:2]=[C:3][C@:4]([H:5])([O:6])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]=[C:3][C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[H:11],-4.6546007647800005
[H:1][C:2][O:4][C:5]([H:6])[O:7][C:8]=[C:9]([H:10])[H:11].[H:3]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])[O:7][C:8]=[C:9]([H:10])[H:11],-4.36457021183
[C:5]([H:6])([H:7])=[C:8][C:9]([H:10])([H:11])[H:12].[O:1]=[C:2][O:3][H:4]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12],-1.3020764363
